US06831106B1
b) 1-[3′-(3,4-Bis-hydroxymethylbenzyloxy)-2-methylbiphenyl-4-yl]-2-methyl-1-propanol
In a manner similar to that of Example 27(g), by reaction of 1.1 g (1.7 mmol) of 1-{3′-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-2-methylbiphenyl-4-yl}-2-methyl-1-propanol with 3.8 mL (3.8 mmol) of 1.0M tetrabutylammonium fluoride, the desired product is obtained in the form of a colourless oil (m=460 mg; Y=65%).

reactant | 1-{3′-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-2-methylbiphenyl-4-yl}-2-methyl-1-propanol | 1.7 mmol, 1.1 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(COC=2C=C(C=CC2)C2=C(C=C(C=C2)C(C(C)C)O)C)C=CC1CO[Si](C)(C)C(C)(C)C | C38H58O4Si2
reactant | tetrabutylammonium fluoride | 3.8 mmol, 1.0M, 3.8 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-[3′-(3,4-Bis-hydroxymethylbenzyloxy)-2-methylbiphenyl-4-yl]-2-methyl-1-propanol | OCC=1C=C(COC=2C=C(C=CC2)C2=C(C=C(C=C2)C(C(C)C)O)C)C=CC1CO | C26H30O4
